US09227951B2
To a 500-mL round-bottom flask was added (S)-(−)-2-methyl-2-propanesulfinamide (1.62 g, 13.4 mmol), and tert-butyl 5-formylthiophene-2-carboxylate (2.37 g, 11.2 mmol), and DCM (100 mL). The mixture was cooled to 0° C., then titanium tetraisopropoxide (19.8 mL, 67.0 mmol) was added. After the solution was warmed to rt and stirred for 16 h, the reaction mixture was diluted with DCM (200 mL). To the flask was added water (19.8 mL) slowly. The mixture was vigorously stirred at rt for 30 min, then filtered through a pad of Celite. The filtrate was concentrated to give a solid. Purification via flash chromatography (hexanes to 10% EtOAc-hexanes) afforded (S,E)-tert-butyl 5-((tert-butylsulfinylimino)methyl)thiophene-2-carboxylate (3.07 g, 87%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 8.65 (s, 1H), 7.72 (d, J=4.0 Hz, 1H), 7.65 (d, J=3.8 Hz, 1H), 1.58 (s, 9H), 1.24 (s, 9H).

reactant | (S)-(−)-2-methyl-2-propanesulfinamide | 13.4 mmol, 1.62 g | CC(C)(C)[S@](=O)N | C4H11NOS
reactant | tert-butyl 5-formylthiophene-2-carboxylate | 11.2 mmol, 2.37 g | C(=O)C1=CC=C(S1)C(=O)OC(C)(C)C | C10H12O3S
reactant | water | 19.8 mL | O | H2O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium tetraisopropoxide | 67.0 mmol, 19.8 mL | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (S,E)-tert-butyl 5-((tert-butylsulfinylimino)methyl)thiophene-2-carboxylate | 3.07 g, 87% | C(C)(C)(C)[S@](=O)\N=C\C1=CC=C(S1)C(=O)OC(C)(C)C | C14H21NO3S2
